US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3-hydroxyethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 3-acetoxyethyl-7-[4-(4-chlorobenzoyl)benzyl]-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one (410 mg) in methanol (8 ml)-DME (4 ml) was added 1N-aqueous sodium hydroxide solution (1.64 ml) and the mixture was stirred for 2 hours. This reaction mixture was neutralized with 1N-hydrochloric acid (1.64 ml) and the precipitate was collected by filtration, washed serially with water, methanol and ether, and dried to provide the title compound (295 mg).

reactant | 3-acetoxyethyl-7-[4-(4-chlorobenzoyl)benzyl]-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one | 410 mg | C(C)(=O)OCCN1C(=NC2=C(C1=O)C=CN2CC2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)SC | C25H22ClN3O4S
reactant | DME | 4 ml | COCCOC | C4H10O2
reactant | sodium hydroxide | 1.64 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1.64 ml | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3-hydroxyethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4-one | 295 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=C(N(C4=O)CCO)SC)C=C2)C=C1 | C23H20ClN3O3S
